*
.SUBCKT 1ps70sb10 1 3
* The Resistor R1 does not reflect
* a physical device.  Instead it
* improves modeling in the reverse
* mode of operation.
*
R1 1 3 3.6E+07
D1 1 3 1ps70sb10
*
.MODEL 1ps70sb10 D
+(
+    IS = 2.117E-07
+    N = 1.016
+    BV = 36
+    IBV = 1.196E-06
+    RS = 2.637
+    CJO = 1.114E-11
+    VJ = 0.2013
+    M = 0.3868
+    FC = 0
+    TT = 0
+    EG = 0.69
+    XTI = 2
+)
.ENDS
*